US04025630
5,5-Dimethyl-10-[4-(morpholino)butyryloxy]-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine dihydrochloride
4.0 g. (10.1 mm.) of 5,5-dimethyl-10-hydroxy-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine, 2.10 g. (10.1 mm.) of γ-morpholino-butyric acid hydrochloride and 2.18 g. (10.6 mm.) of dicyclohexylcarbodiimide are added to 200 ml. of methylene chloride. The reaction mixture is stirred at room temperature for 16 hours and after cooling, the by-product of dicyclohexylurea is removed by suction filtration. The mother liquor is evaporated to give a residue, which, after the usual workup, is converted to a dihydrochloride by the addition of an ether solution of hydrogen chloride. Recrystallization from methylene chloride/diethyl ether gives the final product.

reactant | 5,5-dimethyl-10-hydroxy-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)O)C2=C1CCN(C2)CC#C)C | C28H32FNO2
reactant | γ-morpholino-butyric acid hydrochloride | Cl.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,5-Dimethyl-10-[4-(morpholino)butyryloxy]-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine dihydrochloride | Cl.Cl.CC1(OC2=C(C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)OC(CCCN2CCOCC2)=O)C2=C1CCN(C2)CC#C)C | InChI=1S/C36H45FN2O4.2ClH/c1-6-15-36(5,26-10-12-28(37)13-11-26)27-23-31(42-33(40)9-8-17-38-19-21-41-22-20-38)34-29-25-39(16-7-2)18-14-30(29)35(3,4)43-32(34)24-27;;/h2,10-13,23-24H,6,8-9,14-22,25H2,1,3-5H3;2*1H
